US06323217B2
Step A: Ethyl 1-(Benzofuran-3-ylacety)-4-piperidinecarboxylate
22 g of carbonyldiimidazole are added in portions to 23.9 g of benzofuran-3-ylacetic acid in 250 ml of dichloromethane. When the evolution of gas has stopped, the reaction mixture is stirred for 1 hour and then 21 ml of ethyl piperid-4-ylcarboxylate are added dropwise. After 12 hours' stirring at room temperature, the reaction mixture is washed with 1N sodium hydroxide solution and then with 1N hydrochloric acid. After decanting and drying, concentration under reduced pressure enables the expected product to be isolated.

reactant | carbonyldiimidazole | 22 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzofuran-3-ylacetic acid | 23.9 g | O1C=C(C2=C1C=CC=C2)CC(=O)O | C10H8O3
reactant | ethyl piperid-4-ylcarboxylate | 21 ml | N1CCC(CC1)C(=O)OCC | C8H15NO2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Ethyl 1-(Benzofuran-3-ylacety)-4-piperidinecarboxylate | O1C=C(C2=C1C=CC=C2)CC(=O)N2CCC(CC2)C(=O)OCC | C18H21NO4
